US07888364B2
Procedure F was performed using 50 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)nicotinamide and 90 μL of 2,6-dimethylmorpholine in 0.5 mL of BuOH. Purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(2,6-dimethylmorpholino)nicotinamide. MS (Q1) 423.4 (M)+.

reactant | 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)nicotinamide | 50 mg | ClC1=NC=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1 | C17H11Cl2N3O
reactant | 2,6-dimethylmorpholine | 90 μL | CC1CNCC(O1)C | C6H13NO
solvent | BuOH | 0.5 mL | C(CCC)O | C4H10O
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(2,6-dimethylmorpholino)nicotinamide | ClC1=C(C=C(C=C1)NC(C1=CN=C(C=C1)N1CC(OC(C1)C)C)=O)C1=NC=CC=C1 | C23H23ClN4O2
